US06165942
Synthesis of 8-(4-chloro-2-fluoro-5-nitrophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (The compound No.7)
8-(4-Chloro-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one (0.8 g) was added to a mixture of concentrated nitric acid (60%, d=1.38; 1 ml) and concentrated sulfuric acid (10 ml) under ice-cooled condition. The mixture was reacted for 30 minuets at 0° C., poured into ice water (150 ml) and then extracted with ether. The extract layer was washed with water, an aqueous saturated sodium hydrogencarbonate solution and water in this order, and dried on anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give the compound of interest (0.65 g) as a solid.

reactant | 8-(4-Chloro-2-fluorophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | 0.8 g | ClC1=CC(=C(C=C1)N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C13H6ClF4N3O
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 8-(4-chloro-2-fluoro-5-nitrophenyl)-7,8-dihydro-5-trifluoromethylimidazo[1,2-a]pyrimidin-7-one | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C=2N(C(=CC1=O)C(F)(F)F)C=CN2)F | C13H5ClF4N4O3
